US08349880B2
Step E (5): Methanolic ammonia (1.0 M, 25 mL, 25 mmol) was added to a flask charged with 3-chloro-1-(4-isothiocyanato-2-methoxyphenyl)-1H-1,2,4-triazole 4-chloro-1-(4-isothiocyanato-2-methoxy-phenyl)-1H-imidazole (525 mg, 1.968 mmol) in a ice-water bath. After the addition was complete, the resulting slurry was stirred for 10 min and then allowed to warm to rt. After 24 h, the reaction mixture was concentrated to dryness in vacuo to afford 1-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)thiourea (560 mg, 100% yield) as a white solid. LC-MS (M+H)+ 284.1.

reactant | ammonia | 25 mmol, 1.0 M, 25 mL | N | H3N
reactant | 3-chloro-1-(4-isothiocyanato-2-methoxyphenyl)-1H-1,2,4-triazole 4-chloro-1-(4-isothiocyanato-2-methoxy-phenyl)-1H-imidazole | 1.968 mmol, 525 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1)N=C=S)OC.ClC1=NN(C=N1)C1=C(C=C(C=C1)N=C=S)OC
product | 1-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)thiourea | 560 mg, 100% yield | ClC1=NN(C=N1)C1=C(C=C(C=C1)NC(=S)N)OC | C10H10ClN5OS
